US04493843
(RS)-Methyl 3-(n-octadecyl)indoline-5-carboxylate (13.6 g) in ethanol (380 ml), containing potassium hydroxide (2.7 g) and water (50 ml), was refluxed with stirring for 24 hours. The solvent was removed in vacuo to give an off-white solid. The solid was dissolved in water, and the solution treated with charcoal and filtered through diatomaceous earth. Glacial acetic acid (50 ml) was slowly added to the stirred solution and an off-white solid was collected, which was recrystallised from ethyl acetate to give (RS)-3-(n-octadecyl)indoline-5-carboxylic acid (9.1 g), in the form of a white solid, m.p. 84°-87° C.

reactant | (RS)-Methyl 3-(n-octadecyl)indoline-5-carboxylate | 13.6 g | C(CCCCCCCCCCCCCCCCC)C1CNC2=CC=C(C=C12)C(=O)OC | C28H47NO2
reactant | potassium hydroxide | 2.7 g | [OH-].[K+]
reactant | charcoal | C | CH4
solvent | ethanol | 380 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 50 ml | O | H2O
product | (RS)-3-(n-octadecyl)indoline-5-carboxylic acid | 9.1 g | C(CCCCCCCCCCCCCCCCC)C1CNC2=CC=C(C=C12)C(=O)O | C27H45NO2
